### PR TITLE
feat: support fixed integers and conditions in meta-simp-set

### PR DESCRIPTION
**Pull request by tobiasgrosser**
- add `ConcreteOrMVar.instantiate_ofNat_eq` to simplify instantiation and canonicalize to ofNat.

Unfortunately, this seems to lead to a 'motive not type correct' error. To resolve it we use simp! that just unfolds. This should be debugged further: https://github.com/opencompl/ssa/issues/349.

- generalize `toSnoc_toMap` to work on sequences of snoc

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
This is work in progress. It seems toSnoc_toMap does not work with nested snocs?

`@[simp]
theorem toSnoc_toMap {Γ : Ctxt Ty} {t : Ty } {var : Ctxt.Var Γ t} {f : Ty → Ty2} :
    @Var.toMap _ (Γ.snoc t) _ _ f var.toSnoc = var.toMap.toSnoc := rfl

File: SSA/Projects/InstCombine/Test.lean [hunk 1]
```diff
@@ -383,3 +383,176 @@ def three_inst_macro_noreduc_proof (w : Nat) :
...
+  three_inst_concrete_macro_noreduce_ne x ⊑ three_inst_concrete_macro_noreduce_ne x := by
+  unfold three_inst_concrete_macro_noreduce_ne
+  simp_alive_meta
+  -- There remains a 'toMap' in the following expression:
+  -- (↑↑(Ctxt.Var.last ∅ (MTy.bitvec (ConcreteOrMVar.mvar 0)))).toMap
+  -- I am unsure why
+  simp only [Ctxt.Var.toSnoc_toMap']
+  simp_alive_meta
+  simp_alive_ssa
+  intros -- Why do I need an intros?
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/Test.lean:557]: Anyone knows why I need this `intros`?

**Comment by tobiasgrosser** [comment]
> This is work in progress. It seems toSnoc_toMap does not work with nested snocs?
> 
> ```lean
> @[simp]
> theorem toSnoc_toMap {Γ : Ctxt Ty} {t : Ty } {var : Ctxt.Var Γ t} {f : Ty → Ty2} :
>     @Var.toMap _ (Γ.snoc t) _ _ f var.toSnoc = var.toMap.toSnoc := rfl
> ```

Fixed by generalizing to use `t` and `t'`.

File: SSA/Projects/InstCombine/Tactic.lean [hunk 2]
```diff
@@ -46,6 +47,8 @@ macro "simp_alive_meta" : tactic =>
       dsimp (config := {failIfUnchanged := false }) only [ConcreteOrMVar.instantiate]
       dsimp (config := {failIfUnchanged := false }) only [InstcombineTransformDialect.instantiateMTy]
       dsimp (config := {failIfUnchanged := false }) only [ConcreteOrMVar.instantiate_mvar_zero'']
+      -- How can I avoid the `simp! only`and use a plain `simp only`?
+      simp! (config := {failIfUnchanged := false }) only [ConcreteOrMVar.instantiate_list]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/Tactic.lean:51]: Can I avoid here the `simp!`?

File: SSA/Projects/InstCombine/Test.lean (hunk 1 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/Test.lean]: This got resolved by flipping a and b, it seems for this apply to work the variable order matters. In retrospective, this is not surprising.

File: SSA/Projects/InstCombine/Tactic.lean (hunk 2 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/Tactic.lean]: @bollu and I debugged for an hour and could not find the solution. We opened an issue to be able to make progress: https://github.com/opencompl/ssa/issues/349

**Comment by bollu** [comment]
LGTM, I am happy to merge this in, with @alexkeizer 's review on it.

File: SSA/Projects/InstCombine/Test.lean [hunk 3]
```diff
@@ -383,3 +383,168 @@ def three_inst_macro_noreduc_proof (w : Nat) :
...
+  Com.ret ⟨0, by simp [Ctxt.snoc]⟩
+
+def one_inst_concrete_stmt :
+  @BitVec.Refinement (BitVec 1) (LLVM.not e) (LLVM.not e) := by simp
+
+def one_inst_concrete_com_proof :
+  one_inst_concrete_com ⊑ one_inst_concrete_com := by
+  unfold one_inst_concrete_com
+  simp only [simp_llvm_wrap]
+  simp_alive_meta
```
Comment (alexkeizer) [inline SSA/Projects/InstCombine/Test.lean:414]: I noticed the proof state after `simp_alive_meta` still contains `ConcreteOrMVar.concrete`. If we change the normal form to be `ofNat`, we probably ought to change the relevant `instantiateFoo` functions to use `ofNat` instead of `.concrete`

**Review by alexkeizer — COMMENTED** [review]
Some minor style comments. I am curious what brought up the decision to change the normal form of `ConcreteOrMVar.concrete`, was it just to reduce the noise in goal statements?

File: SSA/Projects/InstCombine/Test.lean (hunk 3 above)
Comment (bollu) [reply SSA/Projects/InstCombine/Test.lean:414]: @alexkeizer Aha, then I'm happy to switch the normal form to `.concrete`. We should choose one, and I'd rather choose the one that aids consistency.

File: SSA/Projects/InstCombine/Test.lean [hunk 4]
```diff
@@ -383,3 +383,168 @@ def three_inst_macro_noreduc_proof (w : Nat) :
...
+set_option ssa.alive_icom_reduce false in
+def one_inst_concrete_macro_noreduce :=
+  [alive_icom ()|{
+  ^bb0(%arg0: i1):
+    %0 = "llvm.not" (%arg0) : (i1) -> (i1)
+    "llvm.return" (%0) : (i1) -> ()
+  }]
+
+def one_inst_concrete_com :
+  Com InstCombine.LLVM [InstCombine.Ty.bitvec 1] .pure (InstCombine.Ty.bitvec 1) :=
```
[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/Test.lean:403]: I cleanded this up for the old code in this PRL https://github.com/opencompl/ssa/pull/350.

[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/Test.lean]: I now pushed formatting fixes to this PR. @alexkeizer, let me know if I missed sth.

File: SSA/Projects/InstCombine/Test.lean (hunk 3 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/Test.lean:418]: @bollu, could you do the switching? I feel you are faster at it.

Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/Test.lean:418]: Actually, I just did the switching. It was easy. This is now resolved.

**Comment by tobiasgrosser** [comment]
From my perspective all comments are adressed. @alexkeizer @bollu, could you take a final look?

File: SSA/Core/Util/ConcreteOrMVar.lean [hunk 5]
```diff
@@ -48,9 +48,14 @@ def instantiate (as : Vector α φ) : ConcreteOrMVar α φ → α
   | .concrete w => w
   | .mvar i => as.get i
 
+/-- We choose OfNat.ofNat to be our simp normal form. -/
```
Comment (tobiasgrosser) [inline SSA/Core/Util/ConcreteOrMVar.lean:51]:
```suggestion
/-- We choose ConcreteOrMVar.concrete to be our simp normal form. -/
```

**Comment by tobiasgrosser** [comment]
Reviewed in person by @bollu
